US05753664
3,5-Dimethyl-2-[4-[4-(4-methylpiperazinylmethyl)benzoyl]benzylthio]-4(3H)-quinazolinone
A solution of 3,5-dimethyl-2-mercapto-4(3H)quinazolinone (1.03 g), 4,4'-bis (bromomethyl)benzophenone (1.75 g), N-methylpiperazine (500 ml) and 1N-sodium hydroxide/water (5.5 ml) in DMF (35 ml) was stirred at room temperature for 30 minutes. This reaction mixture was concentrated and the residue was dissolved in ethyl acetate, washed with water, dried, and concentrated. The residue was purified by silica gel column chromatography (chloroform: methanol: aqueous ammonia=40:1:0.1) to provide the title compound as colorless amorphous solid (180 mg).

reactant | 3,5-dimethyl-2-mercapto-4(3H)quinazolinone | 1.03 g | CN1C(=NC2=CC=CC(=C2C1=O)C)S | C10H10N2OS
reactant | 4,4'-bis (bromomethyl)benzophenone | 1.75 g | BrCC1=CC=C(C(=O)C2=CC=C(C=C2)CBr)C=C1 | C15H12Br2O
reactant | N-methylpiperazine | 500 ml | CN1CCNCC1 | C5H12N2
reactant | sodium hydroxide water | 5.5 ml | [OH-].[Na+].O
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | 3,5-Dimethyl-2-[4-[4-(4-methylpiperazinylmethyl)benzoyl]benzylthio]-4(3H)-quinazolinone | 180 mg | CN1C(=NC2=CC=CC(=C2C1=O)C)SCC1=CC=C(C=C1)C(C1=CC=C(C=C1)CN1CCN(CC1)C)=O | C30H32N4O2S
